US06110967
2-(t-Butoxycarbonylaminomethyl)aniline:
2-Aminobenzylamine (5.0 g, 40.9 mmol) and triethylamine (4.1 g, 40.9 mmol) were dissolved in a mixed solvent (50 ml) of dioxane-water (2:1). A dioxane solution (8.9 g/10 ml) of di-t-butyl carbonate was added dropwise to the solution under cooling with ice water. The mixture was stirred for 2 hours as it was. After the reaction mixture was diluted with ethyl acetate, an aqueous phase was removed, and an organic phase was washed 3 times with water and once with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was crystallized from diisopropyl ether-hexane to obtain 6.70 g of the title compound.

reactant | 2-Aminobenzylamine | 40.9 mmol, 5.0 g | NC1=C(CN)C=CC=C1 | C7H10N2
reactant | triethylamine | 40.9 mmol, 4.1 g | C(C)N(CC)CC | C6H15N
reactant | dioxane | 10 ml, 8.9 g | O1CCOCC1 | C4H8O2
reactant | di-t-butyl carbonate | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | dioxane water | 50 ml | O1CCOCC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(t-Butoxycarbonylaminomethyl)aniline | 6.70 g | C(C)(C)(C)OC(=O)NCC1=C(N)C=CC=C1 | C12H18N2O2
